US07144906B2
Methyl 5-(5-methyl-2-phenyloxazol-4-yl)pentanoate
Methyl 6-acetyl-6-benzoylaminohexanoate (4.35 g) was dissolved in 87 ml of toluene, and 2.9 ml of phosphorus oxychloride was added and heated to reflux for 50 minutes. The reaction solution was cooled, poured into ice-cold water, neutralized with aqueous sodium hydrogen carbonate solution, extracted with ethyl acetate and washed with brine. The resulting solution was dried over anhydrous magnesium sulfate and concentrated to provide 3.40 g of the objective compound as yellowish oil.

reactant | Methyl 6-acetyl-6-benzoylaminohexanoate | 4.35 g | C(C)(=O)C(CCCCC(=O)OC)NC(C1=CC=CC=C1)=O | C16H21NO4
reactant | phosphorus oxychloride | 2.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 87 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 5-(5-methyl-2-phenyloxazol-4-yl)pentanoate | 3.40 g | CC1=C(N=C(O1)C1=CC=CC=C1)CCCCC(=O)OC | C16H19NO3
